US04001426
2-[4'-(2-Diethylaminoethoxy)phenyl]-3-(3',5'-dimethylbenzoyl)benzofuran
2-p-Hydroxyphenyl-3-(3',5'-dimethylbenzoyl)benzofuran (5.25 g., 15.3 mmol.) was dissolved in 200 ml. of dry acetone and 10.5 g. (0.076 mol.) of potassium carbonate and 2.10 g. (15.3 mmol.) of 2-diethylaminoethyl chloride were added. The reaction mixture was refluxed for three hours, then it was cooled and filtered. The filtrate was concentrated at reduced pressure to give the title compound as an oil.

reactant | 2-p-Hydroxyphenyl-3-(3',5'-dimethylbenzoyl)benzofuran | 15.3 mmol, 5.25 g | OC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=CC=C2 | C23H18O3
reactant | potassium carbonate | 0.076 mol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-diethylaminoethyl chloride | 15.3 mmol | C(C)N(CCCl)CC | C6H14ClN
solvent | acetone | CC(=O)C | C3H6O
product | 2-[4'-(2-Diethylaminoethoxy)phenyl]-3-(3',5'-dimethylbenzoyl)benzofuran | C(C)N(CCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=CC=C2)CC | C29H31NO3
